US08420816B2
(R)-1-(3,3-dimethyl-2-(3-oxopyrrolo [4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoyl)azetidine-3-carbonitrile
(R)-3,3-Dimethyl-2-(3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoic acid (80 mg, 0.278 mmol), HOBt hydrate (51.2 mg, 0.334 mmol), and EDC hydrochloride (80 mg, 0.418 mmol) were combined in DMF (2 mL). Azetidine-3-carbonitrile hydrochloride (49.5 mg, 0.418 mmol) and 4-methylmorpholine (0.124 mL, 1.114 mmol) were added, and the reaction mixture was stirred at room temperature for 2 h. The product was purified by preparative HPLC (10-50% AcCN/H2O with 0.035% TFA), concentrated in vacuo, and purified by flash column chromatography (8% MeOH/DCM) to afford the title compound (38 mg, 39%). 1H NMR (500 MHz, CD3OD) δ 1.17 (s, 9H), 3.58-3.72 (m, 1H), 4.13-4.65 (m, 4H), 5.35-5.45 (m, 3H), 7.28-7.38 (m, 1H), 7.95 (d, J=15.5 Hz, 1H), 8.33-8.40 (m, 1H). [M+H] calc'd for C19H21N5O2, 352; found, 352.

reactant | (R)-3,3-Dimethyl-2-(3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoic acid | 0.278 mmol, 80 mg | CC([C@H](C(=O)O)N1CC=2C=CN=C3C2C(C1=O)=CN3)(C)C | C15H17N3O3
reactant | HOBt hydrate | 0.334 mmol, 51.2 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC hydrochloride | 0.418 mmol, 80 mg | CCN=C=NCCCN(C)C.Cl
reactant | Azetidine-3-carbonitrile hydrochloride | 0.418 mmol, 49.5 mg | Cl.N1CC(C1)C#N
reactant | 4-methylmorpholine | 1.114 mmol, 0.124 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (R)-1-(3,3-dimethyl-2-(3-oxopyrrolo [4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoyl)azetidine-3-carbonitrile | 38 mg, 39% | CC([C@H](C(=O)N1CC(C1)C#N)N1CC=2C=CN=C3C2C(C1=O)=CN3)(C)C | C19H21N5O2
